US05081237
To a solution of (2S)-5-allyloxycarbonylimino-2-t-butyldimethylsilyloxymethyl-1-methylpyrrolidine (1.0 g) in methanol (30 ml) was added conc. hydrochloric acid (1 ml) at 0° C. After stirring at ambient temperature for 12 hours, saturated aqueous sodium bicarbonate was added to the mixture and the solvent was evaporated. The residue was dissolved in ethyl acetate and washed in turn with water and brine. The dried solution was evaporated in vacuo to give (2S)-5-allyloxycarbonylimino-2-hydroxymethyl-1-methylpyrrolidine (0.65 g).

reactant | (2S)-5-allyloxycarbonylimino-2-t-butyldimethylsilyloxymethyl-1-methylpyrrolidine | 1.0 g | C(C=C)OC(=O)N=C1CC[C@H](N1C)CO[Si](C)(C)C(C)(C)C | C16H30N2O3Si
reactant | hydrochloric acid | 1 ml | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methanol | 30 ml | CO | CH4O
product | (2S)-5-allyloxycarbonylimino-2-hydroxymethyl-1-methylpyrrolidine | 0.65 g | C(C=C)OC(=O)N=C1CC[C@H](N1C)CO | C10H16N2O3
